US07427632B2
3-Chloro-N-[(R)-1-phenyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride
Using alkylation method A, 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (200 mg, 0.45 mmol) and acetone (0.33 mL, 4.5 mmol) afforded, after purification (SiO2: 8:2:1 hexane:EtOAc:isopropylamine) and conversion to the HCl salt by general method B, 120 mg (55%) of the title compound.

reactant | 3-chloro-N-[(R)-1-phenyl-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.45 mmol, 200 mg | ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCNCC1)C1=CC=CC=C1 | C23H26ClN3O2
reactant | acetone | 4.5 mmol, 0.33 mL | CC(=O)C | C3H6O
product | 3-Chloro-N-[(R)-1-phenyl-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide hydrochloride | Cl.ClC1=CNC2=CC(=CC=C12)C(=O)N[C@@H](COCC1CCN(CC1)C(C)C)C1=CC=CC=C1 | InChI=1S/C26H32ClN3O2.ClH/c1-18(2)30-12-10-19(11-13-30)16-32-17-25(20-6-4-3-5-7-20)29-26(31)21-8-9-22-23(27)15-28-24(22)14-21;/h3-9,14-15,18-19,25,28H,10-13,16-17H2,1-2H3,(H,29,31);1H/t25-;/m0./s1
